US08735322B2
A solution of 2-(3,5-dimethoxycyclohexa-2,5-dienylmethyl)-[1,3]-dioxolane (730 mgs, 3.2 mmol) in a mixture of 10% aqueous hydrochloric acid (2.9 ml) and tetrahydrofuran (29 ml) is stirred at room temperature for ¾ hour. The reaction mixture is poured into an aqueous solution of saturated potassium carbonate and extracted with ethyl acetate. The organic extract is discarded. The aqueous extract is acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract is dried over anhydrous magnesium sulfate, filtered and then filtrate evaporated in vacuo to give 5-([1,3]-dioxolan-2-ylmethyl)-cyclohexane-1,3-dione as a white solid, used without further purification in the next step.

reactant | 2-(3,5-dimethoxycyclohexa-2,5-dienylmethyl)-[1,3]-dioxolane | 3.2 mmol, 730 mgs | COC1=CC(C=C(C1)OC)CC1OCCO1 | C12H18O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 2.9 ml | Cl | ClH
solvent | tetrahydrofuran | 29 ml | O1CCCC1 | C4H8O
product | 5-([1,3]-dioxolan-2-ylmethyl)-cyclohexane-1,3-dione | O1C(OCC1)CC1CC(CC(C1)=O)=O | C10H14O4
